US05137909
2-(1H-indol-2-yl)thio-2-phenylpropyl acetate
To a solution (20 ml) of 2-(1H-indol-2-yl)thio-2-phenylpropanol (2.81 g) and N,N-dimethylaniline (1.23 g) in anhydrous DMF, was a solution (2 ml) of acetyl chloride (0.86 g) in anhydrous DMF was added dropwise. The mixture was stirred at room temperature overnight. The reaction solution was diluted with water, and was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water, and a saturated aqueous sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure. The residue was purified by silica gel column chromatography (diluting solvent: n-hexane/ethyl acetate =9:1), and further recrystallized from ethanol to give 1.35 g (yield: 42 %) of the product compound as a pale yellow prism crystal. The melting point was 105°-106° C.

reactant | 2-(1H-indol-2-yl)thio-2-phenylpropanol | 20 ml, 2.81 g | N1C(=CC2=CC=CC=C12)SC(CO)(C)C1=CC=CC=C1 | C17H17NOS
reactant | N,N-dimethylaniline | 1.23 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | acetyl chloride | 2 ml, 0.86 g | C(C)(=O)Cl | C2H3ClO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(1H-indol-2-yl)thio-2-phenylpropyl acetate | 1.35 g, yield: 42 % | C(C)(=O)OCC(C)(C1=CC=CC=C1)SC=1NC2=CC=CC=C2C1 | C19H19NO2S
